Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
drainage from incision

 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Ms ___ is s/p LTCS on ___ for NRFHT who presented from 
home where she noted foul smelling purulent drainage from her 
incision. This was preceded one day prior by swelling and pain. 
She was tolerating a regular diet. Denied fever, chills, nausea, 
vomiting, vaginal discharge. She was breastfeeding well. She 
felt well supported by her husband ___. Infant is doing well. 

At the time of her cesarean delivery, she presented in active
labour and had a c/s for NRFHT at 9cm with deep variable decels.
Final path on the placenta revealed chorioamnionitis with marked
funisitis. She was GBS+ and did not receive 4 hrs of PCN. She 
did
not have any complications postpartum and was sent home on 
POD#4.

 
Past Medical History:
PCOS, hx LSIL
 
Social History:
lives with her husband ___ and ___. works in ___. ___
is a ___. Denies t/e/d. Been together for ___ years. 

 
Physical Exam:
On admission:
P/E: 98.3 -> 101.2 after drainage and probing of wound HR 120 BP
133/64 RR18 100% RA
Gen: looks tired but otherwise well
RRR
ABD: obese with pannus overlying incision. Incision is draining
foul smelling purulent discharge in 2 sites. warmth and erythema
and indurated noted above and below incision mostly on the left
extending to the midline as well as on the right. Firm fundus 
non
tender at umbilicus. Very difficult to assess for any other
masses. No rebound or guarding. 
SPEC: deferred

 
Pertinent Results:
___ 06:05AM BLOOD WBC-12.5* RBC-2.74* Hgb-7.8* Hct-24.5* 
MCV-90 MCH-28.3 MCHC-31.6 RDW-15.7* Plt ___
___ 08:00AM BLOOD WBC-16.4* RBC-2.91*# Hgb-8.2*# Hct-25.3* 
MCV-87 MCH-28.3 MCHC-32.6 RDW-15.7* Plt ___
___ 08:00AM BLOOD Neuts-86.4* Lymphs-8.9* Monos-3.9 Eos-0.5 
Baso-0.3
___ 08:00AM BLOOD Glucose-80 UreaN-8 Creat-0.9 Na-139 K-4.0 
Cl-105 HCO3-25 AnGap-13
___ 06:05AM BLOOD Plt ___
___ 08:00AM BLOOD Plt ___
___ 08:00AM BLOOD ALT-16 AST-20 LD(LDH)-202 AlkPhos-150* 
TotBili-0.5
___ 08:00AM BLOOD Albumin-2.9* Calcium-8.4 Phos-3.8 Mg-2.0
___ 08:25AM BLOOD Lactate-1.1
 
Brief Hospital Course:
Pt initially seen in gyn triage for her cellulitis and deep 
wound infection. In triage, her wound was open in 2 areas of 
weakness and probed with sterile qtip.  Fascia was found to be 
intact.  Areas irrigated and packed.  Pt admitted to postpartum 
service for treatment with cefazolin and monitoring of infection 
for 24hours.  While in house, TID dressing changes performed.  
On ___ antibiotics changed to zosyn as wound culture grew 
P.aeruginosa.  CT of abdomen/pelvis demonstrated no evidence of 
abscess or fluid collection.  Pt WBC trended down to 12.5 and 
she remained afebrile on the floor.  Pt discharged on HD#2 on PO 
bactrim DS with follow up with Dr. ___ in one week.  
 
Medications on Admission:
ibuprofen

 
Discharge Medications:
1. Bactrim DS 160-800 mg Tablet Sig: One (1) Tablet PO twice a 
day for 14 days.
Disp:*28 Tablet(s)* Refills:*0*
2. Motrin 600 mg Tablet Sig: One (1) Tablet PO every six (6) 
hours as needed for pain.
Disp:*30 Tablet(s)* Refills:*1*
3. Oxycodone-Acetaminophen ___ mg Tablet Sig: One (1) Tablet 
PO every ___ hours as needed for pain: Do not exceed 4g tylenol 
in 24hours.
Disp:*15 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Wound infection

 
Discharge Condition:
good

 
Discharge Instructions:
- No heavy lifting for six weeks 
- Do not drive while using narcotics
- Please call your doctor for:
  - fever greater than 100.4F
  - vaginal bleeding that saturates >1 pad per hour
  - abdominal pain
  - fever/chills
  - your incision becomes red and warm
  - you have pus draining from your incision
  - any concerns that may worry you

 
Followup Instructions:
___